US05665725
3-(2,3-Dihydro-5-fluoro-benzofuran-3-yl)-1-propanol, prepared as described in EXAMPLE 11, (51 g) was dissolved in 300 ml of dichloromethane and 0.5 ml of dimethyl formamide was added. During 20 min 50 ml of thionyl chloride was added dropwise followed by stirring for 3 h. Ice cold water was added, the organic phase separated, dried over magnesium sulfate and concentrated in vacuo giving 46 g of 3-(3-chloro-1-propyl)-2,3-dihydro-5-fluoro-benzofuran as an oil. Sodium cyanide (12 g) was suspended in dimethyl sulfoxide (180 ml) and heated to 80° C. A solution of 3-(3-chloro-1-propyl)-2,3-dihydro-5-fluoro-benzofuran (42 g) in 40 ml of dimethyl sulfoxide was added dropwise followed by heating to 140° C. for 15 min. After cooling ether and water were added, the ether phase separated, washed with water and dried over magnesium sulfate. Removal of solvent in vacuo left a viscous oil which was applied to a silica gel column giving 4-(2,3-dihydro-5-fluoro-benzofuran-3-yl)butyronitrile as an oil (20 g). The cyanide was dissolved in 100 ml of glacial acetic acid followed by addition of concentrated hydrochloric acid (200 ml). After reflux for 5 h, water was added followed by extraction with ethyl acetate. Drying of the organic phase over magnesium sulfate and removal of solvent in vacuo gave 4-(2,3-dihydro-5-fluoro-benzofuran-3-yl)butyric acid (20 g). The acid (8 g) was dissolved in 50 ml of dichloromethane and 0.5 ml of dimethyl formamide was added. Thionyl chloride (20 ml) was added followed by reflux for 1.5 h. The reaction mixture was concentrated twice with heptane in vacuo giving 4-(2,3-dihydro-5-fluoro-benzofuran-3-yl)-butyric acid chloride (7 g) as an oil. A solution of spiro[isobenzofuran-1(3H),4'-piperidine] (2 g) and triethyl amine (3 ml) in dichloromethane (50 ml) was cooled to 5° C. and a solution of 4-(2,3-dihydro-5-fluoro-benzofuran-3-yl)-butyric acid chloride (3 g) in dichloromethane (25 ml) was added dropwise. After stirring for 1 h at room temperature the reaction mixture was washed with salt water and dried over magnesium sulfate. Removal of the solvent in vacuo gave 4.4 g of a viscous oil which was dissolved in 25 ml of dry tetrahydrofuran and added dropwise to a suspension of lithium aluminium hydride (2.6 g) in 60 ml of dry tetrahydrofuran. The reaction mixture was heated to reflux for 2 h and hydrolyzed with water. Filtration and removal of solvent in vacuo gave a viscous oil which was applied to a silica gel column (eluent:heptane/ethyl acetate/triethyl amine=70:25:5) giving 2.9 g of the title compound, 12, which crystallized as the oxalate salt from acetone by addition of oxalic acid. Yield: 2.2 g, mp: 102°-3° C.

reactant | 3-(2,3-Dihydro-5-fluoro-benzofuran-3-yl)-1-propanol | FC=1C=CC2=C(C(CO2)CCCO)C1 | C11H13FO2
reactant | dimethyl formamide | 0.5 ml | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 50 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | 3-(3-chloro-1-propyl)-2,3-dihydro-5-fluoro-benzofuran | 46 g | ClCCCC1COC2=C1C=C(C=C2)F | C11H12ClFO
